US06903085B1
tert-Butyl 1-(4-chloro-3-fluorobenzyl)-4-piperidinylcarbamate (1.80 g) in dichloromethane (20 ml) was stirred under nitrogen. Trifluoroacetic acid (5 ml) was then added dropwise and the reaction was left to stir for 2 hours. 1M sodium hydroxide was added to the reaction until basic, with the resulting solution being extracted three times with dichloromethane. The pooled organic phases were washed once with water, once with brine, dried over magnesium sulfate, filtered and the solvent removed under reduced pressure. Product purified by chromatography (5% ethanol/dichloromethane to 10% ethanol/dichloromethane) and solvent removed under reduced pressure to leave an oil which crystallised over the period of 48 hours. The resulting solid was triturated with diethyl ether and filtered to leave 1-(4-chloro-3-fluorobenzyl)-4-piperidinamine (0.500 g) as a white solid.

reactant | tert-Butyl 1-(4-chloro-3-fluorobenzyl)-4-piperidinylcarbamate | 1.80 g | ClC1=C(C=C(CN2CCC(CC2)NC(OC(C)(C)C)=O)C=C1)F | C17H24ClFN2O2
reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(4-chloro-3-fluorobenzyl)-4-piperidinamine | 0.500 g | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)F | C12H16ClFN2
